US05225402
A mixture (5 ml) of hydrobromic acid and acetic acid (35% solution) is added to 1-{1-[4-(N-t-butoxycarbonyl-N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihyrocarbostyril (1.8 g) and the mixture is stirred at room temperature overnight. The reaction mixture is poured into water and the pH value thereof is adjusted to pH 12-14 by adding potassium carbonate. The mixture is extracted with chloroform, dried with sodium carbonate and then purified by silica gel column chromatography-(solvent; n-hexane:ethyl acetate=1:1). The resultant is recrystallized from n-hexane/ethanol to give 1-{1-[4-(N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.2 g), as white powder, m.p. 184°-186° C.

reactant | hydrobromic acid | 5 ml | Br | BrH
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-{1-[4-(N-t-butoxycarbonyl-N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihyrocarbostyril | 1.8 g | C(C)(C)(C)OC(=O)N(C)C1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C27H33N3O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-{1-[4-(N-methylamino)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.2 g | CNC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C22H25N3O2
